US05093332
To a solution of (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazin-3-yl)acetic acid (3 g, 9 mmol) in dry DMF (25 ml) was added hydroxybenzotriazole hydrate (1.22 g, 9 mmol), N-methoxyethoxyethyl-N-methoxyethylamine (3.19 g, 18 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.59 g, 14 mmol), and the resulting reaction mixture was stirred overnight. Water (10 ml) was added, the mixture stirred an additional 2 hours and concentrated to dryness under reduced pressure. The residue was treated with 0.5N HCl and the pH adjusted to 6.5-6.9 by the additon of dilute NH4OH. The aqueous mixture was extracted with ethyl acetate and the combined extracts were washed with brine and dried over sodium sulfate. After filtration and removal of the solvent, the residue was recrystallized from water to give N-methoxyethoxyethyl-N-methoxyethyl-(2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazin-3-yl)acetamide, mp 156°-158° C.

reactant | (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazin-3-yl)acetic acid | 9 mmol, 3 g | O=C1NC2=C(S(C1CC(=O)O)(=O)=O)SC(=C2)S(N)(=O)=O | C8H8N2O7S3
reactant | hydroxybenzotriazole hydrate | 9 mmol, 1.22 g | O.OC1=CC=CC=2NN=NC21
reactant | N-methoxyethoxyethyl-N-methoxyethylamine | 18 mmol, 3.19 g | COCCOCCNCCOC | C8H19NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 14 mmol, 2.59 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | Water | 10 ml | O | H2O
product | N-methoxyethoxyethyl-N-methoxyethyl-(2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazin-3-yl)acetamide | COCCOCCN(C(CC1C(NC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O)=O)=O)CCOC | C16H25N3O9S3
